US06310056B1
To a solution of 73.6 mg of 4-nitrobenzyl (1S,5R, 6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate in 0.5 ml of dry dichloromethane was added 0.95 ml of iodomethane, and the mixture was stirred under the atmosphere of argon in the darkness at room temperature for 18 hours. Unreacted reagent was removed under reduced pressure to give 89.1 mg of 4-nitrobenzyl (1S,5R,6S)-2-(3,6-dimethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate iodide.

reactant | 4-nitrobenzyl (1S,5R, 6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(3-methylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 73.6 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=C(N3C(S2)=CN=C3)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C23H22N4O6S
reactant | iodomethane | 0.95 ml | IC | CH3I
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 4-nitrobenzyl (1S,5R,6S)-2-(3,6-dimethylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate iodide | 89.1 mg | [I-].CC=1[N+]=2C(SC1C=1[C@@H]([C@H]3N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)=CN(C2)C | InChI=1S/C24H25N4O6S.HI/c1-12-18(22-13(2)26-11-25(4)9-17(26)35-22)21(27-20(12)19(14(3)29)23(27)30)24(31)34-10-15-5-7-16(8-6-15)28(32)33;/h5-9,11-12,14,19-20,29H,10H2,1-4H3;1H/q+1;/p-1/t12-,14+,19+,20+;/m0./s1
